US04792616
by using isobutyl 2-hydroxyethylcarbamate and 2-bromopropionyl bromide there is obtained isobutyl 2-(2-bromopropionyloxy)-ethylcarbamate, nD20 1.4731;

reactant | isobutyl 2-hydroxyethylcarbamate | OCCNC(OCC(C)C)=O | C7H15NO3
reactant | 2-bromopropionyl bromide | BrC(C(=O)Br)C | C3H4Br2O
product | isobutyl 2-(2-bromopropionyloxy)-ethylcarbamate | BrC(C(=O)OCCNC(OCC(C)C)=O)C | C10H18BrNO4
